US07135483B2
Preparation of pyridine-3,4-dicarboxylic acid bis-[(4-phenyl-butyl)-amide] (7)
3,4-Pyridinedicarboxylic acid (1 g; 6.0 mmol) is slurried in DMF (50 mL) at ambient temperature. To this reaction mixture is added sequentially 1-hydroxybenzotriazole hydrate (2.43 g; 18.0 mmol), 4-phenylbutylamine (2.08 mL; 13.2 mmol), triethylamine (1.67 mL; 12.0 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.87 g; 15.0 mmol). The reaction mixture is stirred for 18 hours at ambient temperature. The batch is poured onto ethyl acetate (300 mL), then extracted sequentially with water (100 mL), IN HCl (100 mL), saturated aqueous sodium bicarbonate (50 mL), and brine (50 mL). The organic phase is dried over MgSO4, filtered, and concentrated in vacuo affording the desired product (2.65 g) as a semi-solid. ESMS:MH+ 430.0.

reactant | 3,4-Pyridinedicarboxylic acid | 6.0 mmol, 1 g | N1=CC(=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | 1-hydroxybenzotriazole hydrate | 18.0 mmol, 2.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-phenylbutylamine | 13.2 mmol, 2.08 mL | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | triethylamine | 12.0 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 15.0 mmol, 2.87 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | pyridine-3,4-dicarboxylic acid bis-[(4-phenyl-butyl)-amide] | 2.65 g | C1(=CC=CC=C1)CCCCNC(=O)C=1C=NC=CC1C(=O)NCCCCC1=CC=CC=C1 | C27H31N3O2
